US05578620
3-(4-phenylphenoxy)-2-hydroxypropylazide
A procedure similar to that described in Preparation 12 was repeated, except that 3.00 g of 4-phenylphenoxymethyloxirane (prepared as described in Preparation 82), 4.23 g of sodium azide, 15 ml of methyl formate and 90 ml of an 8:1 by volume mixture of methanol and water were used, to give 3.09 g of the title compound, melting at 72.2° to 73.9° C.

reactant | 4-phenylphenoxymethyloxirane | 3.00 g | C1(=CC=CC=C1)C1=CC=C(OCC2OC2)C=C1 | C15H14O2
reactant | sodium azide | 4.23 g | [N-]=[N+]=[N-].[Na+]
reactant | methyl formate | 15 ml | C(=O)OC | C2H4O2
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-(4-phenylphenoxy)-2-hydroxypropylazide | 3.09 g | C1(=CC=CC=C1)C1=CC=C(OCC(CN=[N+]=[N-])O)C=C1 | C15H15N3O2
